datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.C[Si:73](C)(C)[O:12][C:11]1=[CH:10]CC[C:63]2=[C:62]1[CH:73]=[CH:74][CH:65]=[CH:64]2>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2CC[C:63]3=[C:62]([C:11]2=[O+:12][Si:73](C)(C)C)[CH:73]=[CH:74][CH:65]=[CH:64]3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:61](/[CH:10]=[C:11]2\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]2)(=[O:62])=[O:72])C=C1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH:20]([CH:10]([C:11]1=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]1)[S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"CC1(C)C2CC1[C:11](C)=[CH:10]C2.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([CH:10]3CC4CC(C4(C)C)[C+:11]3C)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20"
"CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1.F[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92]>>CN(C)C1=CC=C([CH:20]([C:10]2(F)[S:61](=[O:62])(=[O:82])C3=C(C=CC=C3)[S:71]2(=[O:72])=[O:92])[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1 10=20;20,21=21"
"C[CH:11]=[CH2:10].F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21]>>C[CH+:11][CH2:10][C:20]1([O-:21])[C:31](F)=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41]1F 10,11=10,20;20,21=21"
"C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.C=C(C)CCC[C:11](C)=[CH2:10]>>C=C(C)CCC[C+:11](C)[CH2:10][CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC2)CC[C:33]3=[CH:32]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC[C:45]3=[CH:46]1)CC2 10,11=10,20"
"CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Sn:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)[O-:12].[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:61][C:11]([C:10]([CH:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1.OCC[NH:10]CCO>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([NH+:10](CCO)CCO)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10=20;20,21=21"
C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.CC1=CC(C)=C([N:61]2[C-:10]=[N+:71](C3=C(C)C=C(C)C=C3C)[CH:63]=[CH:62]2)C(C)=C1>>CC1=CC(C)=C([N:61]2[C:10]([C:20]3(C4=CC=CC=C4)[S:31]CCC[S:41]3)=[N+:71](C3=C(C)C=C(C)C=C3C)[CH:63]=[CH:62]2)C(C)=C1 10=20
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.FC1=CC(F)=C([B-:11](C2=C(F)C=C(F)C=C2F)(C2=C(F)C=C(F)C=C2F)[H:10])C(F)=C1>>C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.FC1=CC(F)=C([B:11](C2=C(F)C=C(F)C=C2F)C2=C(F)C=C(F)C=C2F)C(F)=C1 10,11=10,20"
"C[Si:63](C)(C)[O:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>C[Si:63](C)(C)[O+:12]=[C:11]([CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[Si:63](C)(C)[O:12][C:11](=[CH2:10])/[CH:72]=[CH:73]/[O:74]C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([CH2:10][C:11](=[O+:12][Si:63](C)(C)C)/[CH:72]=[CH:73]/[O:74]C)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
